US07935707B2
C) Benzoic acid(S)-1-piperidin-4-yl-pyrrolidin-2-ylmethyl ester
To a solution of 2.78 g (7.2 mmol) of 4-((S)-2-benzoyloxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester in 80 ml of CH2Cl2 was added 5.83 ml of TFA (90% in water) drop by drop. After 16 hours, the reaction mixture was poured into crashed ice; then, the pH was adjusted to 9-10 with sodium carbonate solution and the mixture was extracted three times with CH2Cl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography [CH2Cl2 (sat. with NH3) and MeOH 1:0 to 9:1] to give 1.96 g (95%) of the title compound as yellow oil. MS: 289.1 (MH+).

reactant | 4-((S)-2-benzoyloxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 7.2 mmol, 2.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@@H](CCC1)COC(C1=CC=CC=C1)=O | C22H32N2O4
reactant | TFA | 5.83 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | Benzoic acid(S)-1-piperidin-4-yl-pyrrolidin-2-ylmethyl ester | 1.96 g, 95% | N1CCC(CC1)N1[C@@H](CCC1)COC(C1=CC=CC=C1)=O | C17H24N2O2
